US04152319
N-(3,5-di tert.butyl-4-hydroxyphenyl)cinnamamide was prepared by adding a solution of 18.2 grams of cinnamoyl chloride in 50 milliliters of benzene to a solution of 2,6-di tert.butyl-4 -aminophenol prepared as described in Example 2 to which had been added 6 grams of sodium carbonate. The addition was accomplished in 30 minutes at 24° C. to 37° C. The mixture was stirred for 1 hour. The solid product was filtered, washed thoroughly with 2% hydrochloric acid, and dried. The yield was 17 grams of product which melted at 211° C. to 214° C.

reactant | cinnamoyl chloride | 18.2 grams | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 2,6-di tert.butyl-4 -aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
reactant | sodium carbonate | 6 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | N-(3,5-di tert.butyl-4-hydroxyphenyl)cinnamamide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(C=CC1=CC=CC=C1)=O | C23H29NO2
